US07544835B2
3-(3-{2-[(Anilinocarbonyl)oxy]ethyl}phenyl)-2-isopropoxypropanoic acid
Using ethyl 3-[3-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate and phenylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate | OCCC=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C16H24O4
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 3-(3-{2-[(Anilinocarbonyl)oxy]ethyl}phenyl)-2-isopropoxypropanoic acid | N(C1=CC=CC=C1)C(=O)OCCC=1C=C(C=CC1)CC(C(=O)O)OC(C)C | C21H25NO5
